US06310217B1
1-[4-(Carboxymethoxy)benzyl]-3-dodecanoylindole-2-carboxylic acid
A mixture of 223 mg (0.6 mmol) of ethyl 3-dodecanoylindole-2-carboxylate, 81 mg (0.72 mmol) of potasisum t-butoxide and 2 ml of absol. DMSO is stirred in an oil bath at 110° C. for 5 min. Then 197 mg (0.72 mmol) of ethyl 2-[4-(bromomethyl)phenoxy]acetate are added, and the mixture is heated at the same temperature for a further 10 min. Cooling and addition of water and NaCl are followed by extraction with ether. The organic phase is dried over Na2SO4, the solvent is distilled off, and the residue is chromato-graphed on silica gel with petroleum ether/ethyl acetate (9+1). The resulting ethyl 3-dodecanoyl-1-{4-[(ethoxycarbonyl)methoxy]benzyl}indole-2-carboxylate is hydrolyzed in analogy to Example 2E. The product is precipitated from ether.

reactant | ethyl 3-dodecanoylindole-2-carboxylate | 0.6 mmol, 223 mg | C(CCCCCCCCCCC)(=O)C1=C(NC2=CC=CC=C12)C(=O)OCC | C23H33NO3
reactant | t-butoxide | 0.72 mmol, 81 mg | CC(C)([O-])C
reactant | ethyl 2-[4-(bromomethyl)phenoxy]acetate | 0.72 mmol, 197 mg | BrCC1=CC=C(OCC(=O)OCC)C=C1 | C11H13BrO3
reactant | NaCl | [Na+].[Cl-]
solvent | water | O | H2O
solvent | DMSO | CS(=O)C | C2H6OS
product | 1-[4-(Carboxymethoxy)benzyl]-3-dodecanoylindole-2-carboxylic acid | C(=O)(O)COC1=CC=C(CN2C(=C(C3=CC=CC=C23)C(CCCCCCCCCCC)=O)C(=O)O)C=C1 | C30H37NO6
